US06794397B2
2-Methyl-N-(4-ethoxy-2-nitrophenyl)-3-furancarboxamide
The title compound was prepared from 2-methyl-3-furoic acid and 4-ethoxy-2-nitroaniline as an orange yellow solid as described in Example 15. 1H NMR (CDCl3): 10.66 (s, 1H), 8.82 (d, J=9.3, 1H), 7.70 (d, J=3.0, 1H), 7.34 (d, J=1.8, 1H), 7.28-7.24 (m, 1H), 6.68 (d, J=1.8, 1H), 4.09 (q, J=6.9, 2H), 2.67 (s, 3H), 1.45 (t, J=6.9, 3H).

reactant | 2-methyl-3-furoic acid | CC=1OC=CC1C(=O)O | C6H6O3
reactant | 4-ethoxy-2-nitroaniline | C(C)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H10N2O3
product | 2-Methyl-N-(4-ethoxy-2-nitrophenyl)-3-furancarboxamide | CC=1OC=CC1C(=O)NC1=C(C=C(C=C1)OCC)[N+](=O)[O-] | C14H14N2O5
